US09169246B2
To a solution of 7-bromo-4-chloro-2-oxo-1,2-dihydroquinoline-3-carbaldehyde (8.0 g, 27.9 mmol) in 150 mL of DMF at 80° C. is added hydrazine hydrate (2 mL, 33.5 mmol) at 80° C. The reaction medium is stirred for 24 hours at 80° C. and then cooled to room temperature and filtered. The solid obtained is washed with diisopropyl ether and dried to give 5.3 g of 7-bromo-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one in the form of a pale yellow powder (yield: 72%).

reactant | 7-bromo-4-chloro-2-oxo-1,2-dihydroquinoline-3-carbaldehyde | 27.9 mmol, 8.0 g | BrC1=CC=C2C(=C(C(NC2=C1)=O)C=O)Cl | C10H5BrClNO2
reactant | hydrazine hydrate | 33.5 mmol, 2 mL | O.NN
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 7-bromo-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 5.3 g | BrC=1C=CC=2C3=C(C(NC2C1)=O)C=NN3 | C10H6BrN3O
